US07091227B2
2-Amino-1,3-benzothiazole-6-carbonitrile:
4-Aminobenzonitrile is dissolved in acetic acid (or a weak protic acid) and the solution is cooled to about 16–30° C., preferably 16–18° C. Potassium thiocyanate is added and the flask is then equipped with an addition funnel. The addition funnel is charged with bromine and acetic acid. This dark solution is then added to the benzonitrile solution in a dropwise fashion under good agitation and allowed to stir for about 12–20 hours, preferrably about 16 hours. The slurry is then drowned into water and filtered. The presscake is washed well with water, reslurried in dilute aqueous alkali and filtered. Again the presscake is washed well with water to obtain the title compound.

reactant | 4-Aminobenzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | Potassium thiocyanate | [S-]C#N.[K+]
reactant | bromine | BrBr | Br2
reactant | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-Amino-1,3-benzothiazole-6-carbonitrile | NC=1SC2=C(N1)C=CC(=C2)C#N | C8H5N3S
